US05356886
To a mixture of 6-chloropurine (414 mg, 2.67 mmol), diisopropyl (E)-4-hydroxybut-1-enylphosphonate (630 mg, 2.67 mmol) and triphenyl phosphine (1.05 g, 4.00 mmol) in dry tetrahydrofuran (30 ml) stirred at 0° C. was added diethyl azodicarboxylate (0.70 g, 4.02 mmol). The mixture was allowed to warm to room temperature and stirred for 27.5 hr. The solvent was removed and the residue Was purified by column chromatography on silica gel eluting with dichloro-methane-methanol (24:1, 13:1) to give (E)-6-chloro-9-[4-(diisopropoxyphosphoryl)but-3-enyl]purine as a white solid (0.37 g, 37%), m.p. 105° C.; λmax (EtOH) 266 (9,260)nm; υmax (KBr) 3435, 2980, 1590, 1560, 1330, 1230 and 1210 cm-1 ; δH (CDCl3) 1.25 (12H, dd, J 6 Hz and 21 Hz, CH(CH3)2), 2.88 (2H, m, CH2), 4.45 (2H, t, J 7 Hz, CH2N), 4.55 (2H, m, CH(CH3)2), 5.68 (1H, dd, J 17 Hz and 20 Hz PCH=CH), 6.70 (1H, ddt, J 7 Hz, 17 Hz and 22 Hz, PCH=CH), 8.10 (1H, s, H-2/H-8), 8.77 (1H, s, H-2/H-8); FABMS (thioglycerol) 373 (MH+) (Found: C, 48.40; H, 6.03; N, 14.81%. C15H22ClN4O3P requires C, 48.33; H, 5.95; N, 15.03%).

reactant | 6-chloropurine | 2.67 mmol, 414 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | diisopropyl (E)-4-hydroxybut-1-enylphosphonate | 2.67 mmol, 630 mg | OCC/C=C/P(OC(C)C)(OC(C)C)=O | C10H21O4P
reactant | triphenyl phosphine | 4.00 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.02 mmol, 0.70 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (E)-6-chloro-9-[4-(diisopropoxyphosphoryl)but-3-enyl]purine | 0.37 g, 37% | ClC1=C2N=CN(C2=NC=N1)CC\C=C\P(=O)(OC(C)C)OC(C)C | C15H22ClN4O3P
